US07238720B2
a) 8-Azabicyclo[3.2.1]octane hydrochloride
A mixture of tropane (900 mg), 1-chloroethyl chloroformate (1 ml), and toluene (20 ml) was heated and refluxed for 6 hours. After that, methanol (10 ml) was added to the reaction solution, and further refluxed for 4 hours. The solvent was distilled to yield the title compound (850 mg).

reactant | tropane | 900 mg | [C@H]12CCC[C@H](CC1)N2C | C8H15N
reactant | 1-chloroethyl chloroformate | 1 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 ml | CO | CH4O
product | 8-Azabicyclo[3.2.1]octane hydrochloride | 850 mg | Cl.C12CCCC(CC1)N2 | InChI=1S/C7H13N.ClH/c1-2-6-4-5-7(3-1)8-6;/h6-8H,1-5H2;1H
